US05714629
Preparation of Isooctyl Thioglycolate
A mixture of 2.5 g of Amberlyst A-15, 71.0 g (0.763 mol) of thioglycolic acid and 109.8 g (0.843 mol) of 2-ethylhexanol is heated as described in Example 1, using a water separator, until no further water passes over. The residue is neutralized with 15 ml of a 10% sodium bicarbonate solution at 25° C. and washed with 15 ml of a 3% sodium chloride solution. After the aqueous phase (31.9 g of wash water polluted with thioglycolic acid) has been removed, the residue is distilled under reduced pressure (8.5 mbar) at an overhead temperature of 105° C. 129.5 g (82%) of the product are obtained with first runnings of 16.1 g and a residue of 4.9 g.

reactant | thioglycolic acid | 0.763 mol, 71.0 g | C(CS)(=O)O | C2H4O2S
reactant | 2-ethylhexanol | 0.843 mol, 109.8 g | C(C)C(CO)CCCC | C8H18O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | Isooctyl Thioglycolate | 129.5 g, 82% | C(CS)(=O)OCCCCCC(C)C | C10H20O2S
